US07829560B2
3-Fluoro-N-[4-({2-[(2-methoxyethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide (Compound B374).
Compound is prepared from 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide and 2-methoxyethylamine according to conditions described in general procedure C. Mp: 87-88° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.60-1.63 (m, 6 H), 3.00-3.38 (m, 1 H), 6.20-6.40 (m, 1 H), 6.99 (d, J=12.4 Hz, 1 H), 7.09-7.18 (m, 2 H), 7.40 (d, J=7.7 Hz, 1 H), 7.46 (s, 1 H), 7.55-7.62 (m, 3 H), 7.82 (d, J=8.0 Hz, 1 H), 7.99 (d, J=8.0 Hz, 1 H), 8.23 (s, 1 H), 10.43 (s, 1 H).

reactant | 3-fluoro-N-[4-(2-methanesulfonyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCCCC1 | C27H25FN4O4S
reactant | 2-methoxyethylamine | COCCN | C3H9NO
product | 3-Fluoro-N-[4-({2-[(2-methoxyethyl)amino]pyrimidin-4-yl}oxy)-1-naphthyl]-5-piperidin-1-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)NCCOC)C=C(C1)N1CCCCC1 | C29H30FN5O3
